US08536160B2
(Z) 3-[3-(R)-Pyrrolidinyl]oxyimino-6α-methylandrostane-17-one hydrochloride (I-ax)
Prepared in 70% yield as described in Example 1 starting from 6α-methylandrostane-3,17-dione (II-ai, Prepn. 19) and 3-(R)-pyrrolidinyloxyamine dihydrochloride (III-e, Prepn. 5). The crude product was dissolved in H2O and freeze-dried to give the title compound I-ax. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 9.03 (2H, bb), 4.73 (1H, m), 3.30-3.02 (5H, m), 2.45-0.56 (22H, m), 0.87 (3H, m), 0.84 (3H, s), 0.78 (3H, s).

reactant | 6α-methylandrostane-3,17-dione | C[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H30O2
reactant | 3-(R)-pyrrolidinyloxyamine dihydrochloride | Cl.Cl.N1C[C@@H](CC1)ON
solvent | H2O | O | H2O
product | 3-[3-(R)-Pyrrolidinyl]oxyimino-6α-methylandrostane-17-one hydrochloride | 70% yield | Cl.N1C[C@@H](CC1)ON=C1CC2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C | InChI=1S/C24H38N2O2.ClH/c1-15-12-18-19-4-5-22(27)24(19,3)10-7-20(18)23(2)9-6-16(13-21(15)23)26-28-17-8-11-25-14-17;/h15,17-21,25H,4-14H2,1-3H3;1H/t15-,17+,18-,19-,20-,21?,23+,24-;/m0./s1
